US06500863B1
N-[3-(tert-butoxycarbonylamino)propyl]-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide
Following the general hydrolysis procedure outlined in example 15, N-[3-(tert-butoxycarbonylamino)propyl]-2,6-dichloro-3-nitrobenzenesulfonamide (450 mg, 1.05 mmol), 60% NaH (168 mg, 4.2 mmol) and water (21 μL, 1.15 mmol) were reacted to form the desired product (250 mg, 58%). EI-MS (m/z) 408.1, 410.1 (M-H)−.

reactant | N-[3-(tert-butoxycarbonylamino)propyl]-2,6-dichloro-3-nitrobenzenesulfonamide | 1.05 mmol, 450 mg | C(C)(C)(C)OC(=O)NCCCNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C14H19Cl2N3O6S
reactant | NaH | 4.2 mmol, 168 mg | [H-].[Na+]
reactant | water | 1.15 mmol, 21 μL | O | H2O
product | N-[3-(tert-butoxycarbonylamino)propyl]-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 250 mg, 58% | C(C)(C)(C)OC(=O)NCCCNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C14H20ClN3O7S
